US06187781B1
3-Bromochlorobenzene (427 mg), 27 mg of magnesium, and a trace amount of iodine were heated in 5 ml of tetrahydrofuran under reflux for 1 hour. The reaction mixture was cooled with ice and added dropwise to a solution of 321 mg of 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-6-methyl-4-(4-oxopiperidin-1-yl)pyrimidine in 3 ml of tetrahydrofuran, followed by stirring under ice-cooling for 1 hour and then at room temperature for an addition 1 hour period. The reaction mixture was again cooled with ice, and a saturated ammonium chloride aqueous solution was added thereto dropwise. After stirring at room temperature for 10 minutes, the mixture was extracted with ethyl acetate. The extract was washed successively with a saturated ammonium chloride aqueous solution, a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=4/1) to give 238 mg of 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(3-chlorophenyl)-4-hydroxypiperidin-1-yl]-6-methylpyrimidine.

reactant | 3-Bromochlorobenzene | 427 mg | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | magnesium | 27 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-6-methyl-4-(4-oxopiperidin-1-yl)pyrimidine | 321 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(CC1)=O)C | C21H27BrN4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-[N-(2-bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(3-chlorophenyl)-4-hydroxypiperidin-1-yl]-6-methylpyrimidine | 238 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(CC1)(O)C1=CC(=CC=C1)Cl)C | C27H32BrClN4O
